US04770689
A mixture of 1 part of 1-[1-(2-chlorophenyl)butyl]-1H-imidazole-5-carboxylic acid, 80 parts of methanol and 35.9 parts of a potassium methoxide solution 0.1N was stirred for 1 hour at reflux temperature. The reaction mixture was evaporated and the residue was dried in a dry pistol at 70° C., yielding 0.34 parts (26.7%) of potassium 1-[1-(2-chlorophenyl)butyl]-1H-imidazole-5 -carboxylate dihydrate; mp. 70.7° C. (compound 2.14).

reactant | 1-[1-(2-chlorophenyl)butyl]-1H-imidazole-5-carboxylic acid | ClC1=C(C=CC=C1)C(CCC)N1C=NC=C1C(=O)O | C14H15ClN2O2
reactant | potassium methoxide | 0.1N | C[O-].[K+]
solvent | methanol | CO | CH4O
product | potassium 1-[1-(2-chlorophenyl)butyl]-1H-imidazole-5 -carboxylate dihydrate | 26.7% | O.O.ClC1=C(C=CC=C1)C(CCC)N1C=NC=C1C(=O)[O-].[K+] | InChI=1S/C14H15ClN2O2.K.2H2O/c1-2-5-12(10-6-3-4-7-11(10)15)17-9-16-8-13(17)14(18)19;;;/h3-4,6-9,12H,2,5H2,1H3,(H,18,19);;2*1H2/q;+1;;/p-1
